* source ORCAD_COMPARATOR
M_M1         N00122 N00172 0 0 NMOS_LVL1           
V_V1         N00172 0 0Vdc
V_V2         N00126 0 3Vdc
R_R1         N00122 N00126  1k TC=0,0 
